US07265120B2
A mixture of N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (100 mg), 4-fluorophenylboronic acid (122 mg), tetrakistriphenylphosphine palladium (10 mg) and Na2CO3 (123 mg) in dioxane (5 ml) and water (1 ml) was stirred at 90° C. for 15 hours. Water and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain N′-[3-cyano-6-(4-fluorophenyl)-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (121 mg) as white powder.

reactant | N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 100 mg | ClC1=C(N=C(C(=N1)N=CN(C)C)C#N)C1=NN(C(C=C1)=O)C(C)C | C15H16ClN7O
reactant | 4-fluorophenylboronic acid | 122 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 123 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | N′-[3-cyano-6-(4-fluorophenyl)-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 121 mg | C(#N)C=1C(=NC(=C(N1)C1=NN(C(C=C1)=O)C(C)C)C1=CC=C(C=C1)F)N=CN(C)C | C21H20FN7O
